US04940719
Ethyl 9-p-chlorobenzyl-8-methyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetate
Following the procedure of Example 1, but using 1-(4-chlorobenzyl)-1-(2-methylphenyl)hydrazine hydrochloride and ethyl 2-cyclohexanone acetate as starting materials, the title compound was prepared.

reactant | 1-(4-chlorobenzyl)-1-(2-methylphenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=C(C=CC=C2)C)C=C1
reactant | ethyl 2-cyclohexanone acetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
product | Ethyl 9-p-chlorobenzyl-8-methyl-1,2,3,4-tetrahydrocarbazol-1-yl-acetate | ClC1=CC=C(CN2C3=C(C=CC=C3C=3CCCC(C23)CC(=O)OCC)C)C=C1 | C24H26ClNO2
